Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
dizziness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mrs. ___ is a ___ right-handed woman with a past
medical history of hypertension, hyperlipidemia, and diabetes
with a strong family history of stroke, who presents for several
different neurologic complaints.

Her history begins starting ___ of last week when she
developed a new headache.  It is left-sided in nature starting 
in
the back of her left head and neck and radiates anteriorly on 
the
left side with sharp shooting pains.  It has been occurring on
and off since ___.  No other symptoms with this headache. 
Around the same time, she has had intermittent left ear pain as
well as left submandibular tenderness.  She feels like she has
had an earache and has been using eardrops at home to treat.

Starting perhaps around the same time, though this is quite
unclear, she reports a subjective sensation of bilateral lower
extremity weakness.  It is difficult to get a sense of what is
going on.  The left leg may be slightly worse than the right leg
and she has had some mild trouble going downstairs, but 
otherwise
no functional limitation and is been able to go about her
business as usual.

Next, starting on ___, she woke up feeling "dizzy".  She
describes this as a sense of vertigo (though at times has 
trouble
differentiating vertigo from the pain of her headache) that
lasted several hours, from 4 AM to about 8 AM.  It was 
associated
with a sensation of nausea and bilateral ear fullness,
particularly on the left.  With this first episode, there is 
also
a whooshing noise in her ears.

She attempted to go to work, but felt quite poorly.  She was in 
a
cold sweat.  Her ears both felt blocked her tongue felt thick 
and
she felt physically ill.  She had her son pick her up and take
her home.

Since ___, she is continued to fair feel poorly.  She has had
several discrete episodes of vertigo, lasting anywhere from 1
minute to about 15.  These may be associated with ear fullness
and whooshing, though she is inconsistent about this.  She had a
total of 2 episodes of this on ___, 3 episodes yesterday, and
2 discrete episodes today.

To better describe 1 of her episodes, she was sitting at church
today when she suddenly felt vertiginous.  She got up walk to 
the
bathroom without difficulty and felt quite nauseous.  The past
and several minutes she was able to return to the service.

I am told today, that she was evaluated at her doctor's office
and subsequently sent in.

 
Past Medical History:
-HLD
-DM 
-hypothyroidism
 
Social History:
___
Family History:
 Extremely strong paternal family history of stroke.  Her father
died of stroke.  She has 2 brothers who had strokes.  One niece
and one uncle with strokes as well.  The family members were all
younger than ___ I am told.

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION: 
PHYSICAL EXAMINATION
Vitals:  
97.8 80 176/80 18 
100% RA 
General:  NAD
HEENT: NCAT.  Exquisitely tender at the left splenius.  
Palpation
induces a radicular shooting on the left posterior aspect of her
head which duplicates her headache per reports.   Left
submandibular tender lymphadenopathy.
___: RRR
Pulmonary: CTAB
Abdomen: Soft, NT, ND
Extremities: Warm, no edema

Neurologic Examination:

Vestibular evaluation extremely limited secondary to patient
cooperation.

- Mental status: Awake, alert. Able to relate history in 
___.
Attentive to examiner. Speech is fluent with full sentences, 
repetition and intact verbal comprehension. Naming intact  in
___.  No dysarthria. Normal prosody. No apraxia. No evidence
of hemineglect. No left-right confusion. Able to follow both
midline and appendicular commands.

- Cranial Nerves: PERRL 3->2 brisk. VF full to number counting.
EOMI, no nystagmus.  No skew.  There is questionable overshoot
with head thrust to the left.   V1-V3 without deficits to light
touch bilaterally. No facial movement asymmetry. Hearing intact
to finger rub bilaterally and Weber.  Does not keep eyes open
during attempts to assess vestibular system.  Palate elevation
symmetric. Trapezius strength ___ bilaterally. Tongue midline.

While standing with me, at one point she states she becomes
acutely "dizzy".  This lasts ___ minutes.  Exam is extremely
limited as she keeps her eyes closed except for brief periods of
time.  At times during this, left eye may transiently deviate
out.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.
  [___]
L   5     5    5    5    ___    5     5   5    5    5
R   5     5    5    5    ___    5     5   5    5    5  

*Initially, she states she cannot move the right leg off the bed
and left lower extremity at all.  With significant coaching, it
becomes obvious that the left limb is pain limited due to knee
and hip pain on the left but is otherwise fully strong.  With
mild coaching, the right leg moves easily.  During the interview
she is seen spontaneously moving the legs in bed without any
significant difficulty.
 
- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  2+    2+     2+      2+       2
 R  2+    2+     2+      2+       2  
Plantar response flexor bilaterally 

- Sensory: No deficits to light touch, pin, throughout. 
Proprioception intact to median movements.  No extinction to 
DSS.

- Coordination: No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.  Does not cooperate with heel shin.

- Gait: Able to stand and is quite steady.  While standing
developed her typical left shooting headache, and must sit down.

==========================================
DISCHARGE PHYSICAL EXAMINATION: 
Physical Exam:
Vitals: Tm/c: 98.3 BP: 145-180/74-95 HR: 62-66 RR: ___ SaO2:
97% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM
Pulmonary: Breathing comfortably, no tachypnea nor increased WOB
Cardiac: skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, no edema. 

Neurologic:

-Mental Status: Alert, oriented x 3. Attentive, able to name ___
backward with one error. Language is fluent no paraphasic 
errors.
Naming intact to high and low frequency objects. Able to follow
both midline and appendicular commands. 

-Cranial Nerves: PERRL 3->2. EOMI without nystagmus. Facial
sensation intact to light touch. Face symmetric at rest and with
activation. Hearing intact to finger rub. Palate elevates
symmetrically. Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
  Delt Bic Tri WrE FFl FE
L  5    ___   5  5       
R  5    ___   5  5   
BLE motor exam is significantly effort limited. She gives bursts
of $ at the r IP, a twitch at the L IP, bursts of 4 at bilateral
hamstring and TA, Gastroc. Hoover's sign present. 

-Sensory: Proprioception intact BUE. Intact to LT throughout. No
deficits to light touch, pinprick, cold sensation, vibratory
sense, proprioception throughout. No extinction to DSS.

-DTRs:
   Bi Tri ___ Pat Ach 
 L  2  2    2    2   2   
 R  2  2    2    2   2     
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF bilaterally.

 
Pertinent Results:
___ 03:55PM BLOOD WBC-9.3 RBC-4.45 Hgb-13.5 Hct-40.9 MCV-92 
MCH-30.3 MCHC-33.0 RDW-12.0 RDWSD-40.4 Plt ___
___ 04:30AM BLOOD WBC-8.3 RBC-4.31 Hgb-13.1 Hct-38.9 MCV-90 
MCH-30.4 MCHC-33.7 RDW-11.9 RDWSD-39.2 Plt ___
___ 05:27PM BLOOD ___ PTT-25.9 ___
___ 04:30AM BLOOD ___ PTT-25.9 ___
___ 03:55PM BLOOD Glucose-90 UreaN-15 Creat-0.6 Na-140 
K-3.7 Cl-105 HCO3-22 AnGap-17
___ 04:30AM BLOOD Glucose-101* UreaN-10 Creat-0.6 Na-139 
K-3.9 Cl-103 HCO3-23 AnGap-17
___ 03:55PM BLOOD ALT-26 AST-20 AlkPhos-49 TotBili-0.5
___ 03:55PM BLOOD cTropnT-<0.01
___ 03:55PM BLOOD Albumin-4.4 Calcium-9.7 Phos-3.7 Mg-1.9
___ 04:30AM BLOOD %HbA1c-6.5* eAG-140*
___ 04:30AM BLOOD Triglyc-204* HDL-45 CHOL/HD-3.9 
LDLcalc-89
___ 06:50PM URINE Blood-TR Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-0.2 pH-6.5 Leuks-NEG
___ 08:06PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-0.2 pH-6.5 Leuks-NEG
___ 06:50PM URINE RBC-3* WBC-3 Bacteri-FEW Yeast-NONE Epi-3

IMAGING: 
CXR ___:  
No acute intrathoracic process. 
  
CTA head/neck ___ Wet read: Non-contrast Head CT: No
hemorrhage or large territorial infarct. No mass 
effect. Mild paranasal sinus disease. 
  
CTA Head: 
Patent anterior and posterior circulation without evidence of
large aneurysm.  However, the vessels diffusely are relatively
attenuated with areas of more focal narrowing as follows: The
proximal right M1 is markedly narrowed, likely from
atherosclerosis. The distal right cavernous ICA is moderately
narrowed. 
Hypoplastic or markedly attenuated right A1 segment. 
Fetal-type right PCOM circulation. Hypoplastic/attenuated/absent
right P1 segment. 
Focal atherosclerotic narrowing of the mid-distal basilar 
artery.

Central dural venous sinuses appear patent. 
CTA Neck: Cervical carotid and vertebral arteries are patent
without evidence of flow-limiting stenosis or dissection.
Attenuated bilateral V4 segments, moderate on left and mild on
right. 

 
Brief Hospital Course:
Ms. ___ was admitted for stroke rule-out after presenting with 
multiple episodes of vertigo. Her vertigo improved 
spontaneously, and she had no episodes of vertigo for over 24 
hours before discharge. MRI brain was negative for stroke. A1c 
6.5%, LDL 89. She was evaluated by ___ who recommended discharge 
to home. 
Given multiple vascular risk factors and strong family history 
of stroke at young age, she was started on ASA 81 for primary 
prevention.

The episodes of vertigo are associated with nausea, ear 
fullness, and decreased hearing. Given her significant vascular 
risk factors, she is certainly at risk for stroke, and we will 
investigate this possibility with MRI. Alternate possibilities
include vestibulitis or possibly Meniere's disease, though she 
has no history of prior episodes before this presentation.  Her 
headache is likely occipital neuralgia vs cervicogenic h/a. 
Palpation of the GON reproduces her pain. Her headache
improved significantly prior to discharge. 

===============================
Transitional Issues: 
[ ] Vestibular ___ if vertigo returns
[ ] Follow clinical course of vertigo. If it does not recur, 
this episode was likely vestibulitis. If it recurs, further 
investigation re: Meniere's may be needed. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 500 mg PO DAILY 
2. Vitamin D 1000 UNIT PO DAILY 
3. Simvastatin 40 mg PO QPM 
4. Levothyroxine Sodium 100 mcg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*4 
2.  Levothyroxine Sodium 100 mcg PO DAILY  
3.  MetFORMIN (Glucophage) 500 mg PO DAILY  
4.  Simvastatin 40 mg PO QPM  
5.  Vitamin D 1000 UNIT PO DAILY  
6.Outpatient Physical Therapy
Vestibular physical therapy

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Peripheral vestibulopathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Sra. ___, 
Usted fue ___ hospital debido ha episodios de mareo. Un 
MRI demonstro ___ Ud. no ha sufrido un derrame cerebral. Lo mas 
probable es ___ fue debido a una problema con ___ 
oido interno. ___ oido interno es un organo ___ 
___ de ___. 

___ a dar una receta para ir a terapia fisica. Ellos pueden 
ayudarle con ___ mareo si ___ mareo regresa. 

Por favor ___ con Neurologia y con ___ medico de 
atención primaria.  

Si experimenta alguno de ___, por favor 
___ medica llamando al 911. En particular, ___ 
un derrame cerebral puede ocurrir de nuevo, por favor ponga 
attention ___ o rapida progression de ___ :  
- Parcial o completa perdida de vision ___ occur repentinamente 
- Repentina inabilidad de producir ___ boca 
- Repentina inabilidad de comprender cuando ___ 
- Repentina debilidad en ___ 
- Repentina ___ 
- Repentina perdida de ___ 
 
Sinceramente, 
___ de Neurologia de ___

 
Followup Instructions:
___